US05338857
Dissolved in 65 ml of dimethylformamide were 6.5 g (43 mmol) of 4-methoxybenzaldoxime, followed by the gradual addition of 6.3 g (47 mmol) of N-chlorosuccinimide at room temperature. After the resultant mixture was stirred for 3 hours, 300 ml of water were added to the reaction mixture. The mixture thus formed was extracted with ethyl ether. The ether layer was washed with saturated saline and then dried over anhydrous magnesium sulfate. The solvent was distilled off, whereby 4-methoxybenzhydroxamic acid chloride was obtained. Analytical results of the compound obtained: Yield: 7.98 g (100%).

reactant | 4-methoxybenzaldoxime | 43 mmol, 6.5 g | COC1=CC=C(C=NO)C=C1 | C8H9NO2
reactant | N-chlorosuccinimide | 47 mmol, 6.3 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
product | 4-methoxybenzhydroxamic acid chloride | COC1=CC=C(C(=O)NCl)C=C1 | C8H8ClNO2
